US05212159
S-(α,β-dicarboxyethyl)glutathione magnesium
Using 2 g of S-(α,β-dicarboxyethyl)glutathione and 1 g of basic magnesium carbonate, 2.2 g of the magnesium salt is prepared in a similar manner to the above production of the calcium salt.

reactant | S-(α,β-dicarboxyethyl)glutathione | 2 g | C(=O)(O)C(CC(=O)O)SC[C@H](NC(CC[C@H](N)C(=O)O)=O)C(=O)NCC(=O)O | C14H21N3O10S
reactant | magnesium carbonate | 1 g | C([O-])([O-])=O.[Mg+2]
reactant | calcium | [Ca] | Ca
product | S-(α,β-dicarboxyethyl)glutathione magnesium | [Mg].C(=O)(O)C(CC(=O)O)SC[C@H](NC(CC[C@H](N)C(=O)O)=O)C(=O)NCC(=O)O | InChI=1S/C14H21N3O10S.Mg/c15-6(13(24)25)1-2-9(18)17-7(12(23)16-4-11(21)22)5-28-8(14(26)27)3-10(19)20;/h6-8H,1-5,15H2,(H,16,23)(H,17,18)(H,19,20)(H,21,22)(H,24,25)(H,26,27);/t6-,7-,8?;/m0./s1
